US05538966
Step A: 4-[(2-Methoxyethyl)amino]butyronitrile
To a stirred mixture of 2-methoxyethylamine (20.3 g, 270 mmol) and potassium carbonate (11.2 g, 81.1 mmol) was added 4-bromobutyronitrile (10.0 g, 67.6 mmol) over 20 minutes. This mixture was heated at reflux temperature for 1 h, mixed with ethyl acetate (100 mL) and filtered. The filtrate was concentrated and distilled at 109°-115° C. (0.1 mmHg) to give a clear liquid (9.78 g, quantitative).

reactant | 2-methoxyethylamine | 270 mmol, 20.3 g | COCCN | C3H9NO
reactant | potassium carbonate | 81.1 mmol, 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyronitrile | 67.6 mmol, 10.0 g | BrCCCC#N | C4H6BrN
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-[(2-Methoxyethyl)amino]butyronitrile | COCCNCCCC#N | C7H14N2O
